US04297348
616.5 grams naringin were added to a round bottomed flask, followed by the addition of about one liter of 0.5 N hydrochloric acid. Upon stirring and refluxing, the naringin dissolves to form a yellow to red-brown solution. While a brown gummy or oily material initially forms, it eventually disappears. As the reaction proceeds, a yellow solid precipitates. The reaction time is approximately 2 to 4 hours. The solution is cooled, and the yellow solid filtered and washed with copious amounts of water until the washings are no longer acidic. The amount of naringenin produced is about 160 grams.

reactant | naringin | 616.5 grams | C[C@H]1[C@@H]([C@H]([C@H]([C@@H](O1)O[C@@H]2[C@H]([C@@H]([C@H](O[C@H]2OC=3C=C(C4=C(C3)O[C@@H](CC4=O)C=5C=CC(=CC5)O)O)CO)O)O)O)O)O | C27H32O14
solvent | hydrochloric acid | 0.5 N, about one liter | Cl | ClH
product | naringenin | C1=CC(=CC=C1[C@@H]2CC(=O)C=3C(=CC(=CC3O2)O)O)O | C15H12O5
